US07208614B2
A mixture of 20.88 g of chlorocyclohexane (0.176 mol) and 22.1 g of resorcinol dimethyl ether (0.16 mol) is added dropwise to a suspension of 2.35 g of lithium granules (0.34 mol) in 300 g of THF at −50° C., with an addition time of 2 hours being selected. After a conversion of the chlorocyclohexane of >97% determined by GC (total of 9 h), 16.6 g of trimethyl borate (0.16 mol) are added dropwise at the same temperature over a period of 15 minutes. After stirring for another 30 minutes at −50° C., the reaction mixture is poured into 120 g of water, the pH is adjusted to 6.3 by means of 37% HCl, and THF and cyclohexane are distilled off at 35° C. under reduced pressure. 25 ml of methylcyclohexane are added to the product suspension, the colorless product is filtered off with suction and is washed once with 25 ml of cold methylcyclohexane and once with 25 ml of cold water. After drying, 26.5 g of 2,6-dimethoxyphenylboronic acid (0.146 mol, 91%, melting point: 104–107° C.) are obtained in the form of colorless crystals, HPLC purity >99% a/a.

reactant | chlorocyclohexane | 0.176 mol, 20.88 g | ClC1CCCCC1 | C6H11Cl
reactant | resorcinol dimethyl ether | 0.16 mol, 22.1 g | COC1=CC(OC)=CC=C1 | C8H10O2
reactant | lithium | 2.35 g | [Li] | Li
reactant | trimethyl borate | 0.16 mol, 16.6 g | B(OC)(OC)OC | C3H9BO3
reactant | HCl | Cl | ClH
solvent | THF | 300 g | C1CCOC1 | C4H8O
solvent | cyclohexane | C1CCCCC1 | C6H12
solvent | water | 120 g | O | H2O
product | 2,6-dimethoxyphenylboronic acid | 0.146 mol, 26.5 g, 91% | COC1=C(C(=CC=C1)OC)B(O)O | C8H11BO4
